US07501411B2
Step 4: (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)amine
A mixture of 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine (123 mg, 443 μmol), 4-(4-morpholino)aniline (118 mg. 0.664 mmol) and N-ethyldiisopropylamine (116 mL, 0.664 mmol) is heated at reflux in 2-propanol (3 mL) for 4.5 hours. The reaction mixture is evaporated to dryness and the residue partitioned between dichloromethane and citric acid (10%). The organic phase is washed once with water and brine, dried over MgSO4, filtered and evaporated to furnish the title compound (156 mg, 94%) as a yellow solid. 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 3.11 (m, 4H), 3.78 (m, 4H), 6.97 (d, 2H), 7.82 (d, 2H), 7.87 (s, 1H), 8.71 (s, 1H), 9.93 (br s, 1H). LCMS, Rt 3.32 min (96.8%) m/z (APCI) 375 (M+H)+.

reactant | 5,8-dibromo-[1,2,4]triazolo[1,5-a]pyrazine | 443 μmol, 123 mg | BrC1=CN=C(C=2N1N=CN2)Br | C5H2Br2N4
reactant | 4-(4-morpholino)aniline | 0.664 mmol, 118 mg | C1COCCN1C2=CC=C(C=C2)N | C10H14N2O
reactant | N-ethyldiisopropylamine | 0.664 mmol, 116 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
product | (5-Bromo-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)amine | 156 mg, 94% | BrC1=CN=C(C=2N1N=CN2)NC2=CC=C(C=C2)N2CCOCC2 | C15H15BrN6O
